US05157026
Step 1: 6-Chloro-4,5-diaminopyrimidine
To a cold solution of 5-amino-4,6-dichloropyrimidine (2.0 g, 12.2 mmol) in isopropanol (20 ml) was added liquid ammonia (5 ml), and the mixture was transferred into a sealed tube. The tube was heated at 130° C. for 3 hours and then cooled to room temperature. The product precipitated out was filtered and dried in vacuo. Yield 2.0 g (quantitative).

reactant | 5-amino-4,6-dichloropyrimidine | 12.2 mmol, 2.0 g | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
reactant | ammonia | 5 ml | N | H3N
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 6-Chloro-4,5-diaminopyrimidine | ClC1=C(C(=NC=N1)N)N | C4H5ClN4
